US05719193
Step C: N,N-Bis[(phenyl)methyl]-1,8-diaminooctane
Combine 14.4 gm of diaminooctane, 20.3 ml of benzaldehyde and 0.66 gm of Pt2O in 100 ml of ethanol. Treat the resulting mixture with hydrogen at 45 lbs./sq.in. until no further hydrogen is taken up. Filter, evaporate the solvent (in vacuo), and distill the rendered material to obtain 25.5 gm of the desired product, bp 185°-190° C. at 0.1 mm.

reactant | diaminooctane | 14.4 gm | C(CCCCN)CCCN | C8H20N2
reactant | benzaldehyde | 20.3 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N-Bis[(phenyl)methyl]-1,8-diaminooctane | 25.5 gm | C1(=CC=CC=C1)CN(CCCCCCCCN)CC1=CC=CC=C1 | C22H32N2
